US07834030B2
1.50 g 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-pentan-1-ol were dissolved in 30 ml dichloromethane. 5.46 g manganese(IV)oxide (activated on charcoal) were added and the resulting mixture was heated under reflux for 2.5 hours. The cooled reaction mixture was filtered through a pad of celite. The filtrate was evaporated in vacuo to obtain 1.2 g 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-pentan-1-one as an oil.

reactant | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-pentan-1-ol | 1.50 g | CC=1N=C(SC1C(CCCC)O)C1=CC=C(C=C1)C(F)(F)F | C16H18F3NOS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | manganese(IV)oxide | 5.46 g | [O-2].[Mn+4].[O-2]
product | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-pentan-1-one | 1.2 g | CC=1N=C(SC1C(CCCC)=O)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NOS
